US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(2-fluoro-6-methoxybenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 2-fluoro-6-methoxybenzyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.48-7.40 (m, 1 H), 7.32-7.28 (m, 1 H), 7.26-7.17 (m, 1 H), 7.04-6.99 (m, 1 H), 6.90 (dd, J=6.3, 8.3 Hz, 1 H), 6.78-6.69 (m, 2 H), 6.16-6.09 (m, 1 H), 5.62-5.55 (m, 2 H), 5.50-5.42 (m, 1 H), 4.30-4.24 (m, 2 H), 3.83 (d, J=1.8 Hz, 3 H), 2.94-2.78 (m, 2 H), 2.78-2.71 (m, 3 H), 2.07-2.03 (m, 2 H), 1.01-0.93 (s, 9 H); LC/MS (m/z) ES+=533.37 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 2-fluoro-6-methoxybenzyl bromide | FC1=C(CBr)C(=CC=C1)OC | C8H8BrFO
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(2-fluoro-6-methoxybenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=C(C=CC=C2OC)F)C=2C=C1CCCOC1=CC2 | C31H33FN2O5
